US06559143B1
(iii) 4-{[(2S)-2-Hydroxy-3-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propyl]oxy}benzonitrile
A solution of tert-butyl 7-[(2S)-3-(4-cyanophenoxy)-2-hydroxypropyl]-9-oxa-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate (from step (ii) above; 1.0 g, 2.47 mmol) in ethyl acetate (13 mL) was cooled to 0° C. Ethyl acetate (26 mL) saturated with gaseous HCl was added, and the mixture stirred for 4 h at rt. The solvent was removed in vacuo before MeCN (25 mL), water (1.3 mL) and K2CO3 (2.0 g) were added. The resulting mixture was stirred overnight before CHCl3 was added, and the mixture filtered through Celite®. The filtrate was concentrated in vacuo to give 682 mg (91%) of the title compound.

reactant | tert-butyl 7-[(2S)-3-(4-cyanophenoxy)-2-hydroxypropyl]-9-oxa-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate | C(#N)C1=CC=C(OC[C@H](CN2CC3CN(CC(C2)O3)C(=O)OC(C)(C)C)O)C=C1 | C21H29N3O5
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 13 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 26 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[(2S)-2-Hydroxy-3-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propyl]oxy}benzonitrile | 682 mg, 91% | O[C@H](COC1=CC=C(C#N)C=C1)CN1CC2CNCC(C1)O2 | C16H21N3O3
